Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([O:3][c:6]1[c:4](=[N:5][H:13])[n:7]1)([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3]/[C:4](=[N:5]/[H:13])[C:6]#[N:7])([H:11])[H:12])([H:8])([H:9])[H:10],37.49835671838961
[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:5]([C:3]([C:4]([H:12])([H:13])[H:14])=[O:6])([H:15])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[H:16][H:18],86.89718918432743
[C:1]([C:2][C:4](/[C:5](=[C:6](\[C:7]([O:3][H:11])([H:16])[H:17])[H:15])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],18.263557849864
[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[C:5](\[C:7]([H:21])([H:22])[H:23])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])([H:18])([H:19])[H:20],89.8527869525024
[C:1]([C:3]([C:2]([N:7]=[C:6]=[C:4]([C:5]([H:16])([H:17])[H:18])[H:15])([H:11])[H:12])([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],75.2160616983711
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:6]([O:7][H:16])[H:14].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:12])([H:13])[H:15])([H:10])[H:11])([H:8])[H:9],73.8276635764196
[O:1]([C:2]([C:3](=[O:4])[H:9])([C:5](=[O:6])[H:10])[H:8])[H:7]>>[O:1](/[C:2](=[C:5](\[O:6][H:7])[H:10])[H:8])[C:3](=[O:4])[H:9],34.4650506804551
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@:2]1([H:9])[C@@:3]2([H:11])[C+:4]=[C:5]([H:12])[N-:7][C@@:6]12[H:10])[H:8],109.093325758013
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4]/[C:5](=[C:6](/[O:7][H:13])[H:14])[H:12])([H:8])([H:9])[H:10],62.849616579354105
[C:1](=[N:2][H:9])([H:7])[H:8].[C:3](=[O:4])=[N:5][H:11].[H:6][H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([H:10])[H:11])[H:9])([H:6])([H:7])[H:8],34.00638059126641
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]12[C:2]([H:8])([H:9])[O:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])[C:6]1=[N:7]2,94.3489603636758
[C:1]([N:2]([C:3](=[O:4])[H:10])[C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N+:2](=[C:3]([C:5](=[O:6])[H:11])[H:10])[O-:4])([H:7])([H:8])[H:9],108.388120323665
[O-:1][C:2](=[C:3]([N+:4]#[N:5])[H:7])[H:6]>>[N:4]#[N:5].[O:1]=[C:2]=[C:3]([H:6])[H:7],34.723920555489805
[C:1]([C:2]([C:3]([C:4](=[O:5])[N:6]([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:13].[C:2]([C:3](=[C:4]=[O:5])[H:12])([N:6]([H:14])[H:15])([H:10])[H:11],120.438098483239
[C:1]([C:2]([C:3]([O:4][H:12])([H:10])[H:11])=[C:5]=[O:6])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],70.75961750435557
[C:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3][C:5]#[C:6][H:12])=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],77.1339708758906
[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1>>[N:1](=[C:2]=[C:3]1[C:4]([H:8])=[N:5][N:6]=[N:7]1)[H:9],120.556417954074
[C:1]([C@:2]12[C:3]([H:10])([H:11])[O:6][C@@:5]1([H:12])[O:4]2)([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([C:5](=[O:6])[H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],38.129294573280006
[C:1]([N:2]=[C:3]=[O:4])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:11]>>[C:1](/[N:2]=[C:3](\[O:4][C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],50.6443311741243
[O:1]([C-:2]([C:3]([C@@:4]1([C:7]([H:12])([H:14])[H:15])[C:5]([H:13])=[O+:6]1)([H:10])[H:11])[H:9])[H:8]>>[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]2([C:5]([H:12])([H:13])[O:6]2)[C:7]1([H:14])[H:15])[H:8],35.83316903173349
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])=[C:6]=[N:7][C:5]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10],73.3820327906414
[C:1]([C:2]([C:3](=[O:4])[C:5](=[C:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],1.1091556144162098
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]#[C:6][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:10])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C:5][C:6]1([H:11])[H:16])([H:7])([H:8])[H:9],87.8239615742852
[C:1]([H:7])([H:8])([H:9])[H:12].[C:2]1([H:10])=[C:3]([H:11])[C:4]1([C:5]#[C:6][H:14])[H:13]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C@:4]1([C:5]#[C:6][H:14])[H:13])([H:7])([H:8])[H:9],59.641118605898406
